US08912200B2
Step 8: 5-(2-Amino-5-iodopyrimidin-4-yl)-2-(5-chloro-2-methylphenyl)-1-{[2-(trimethylsilyl)ethoxy]methyl}-1H-pyrrole-3-carboxamide (XII)
N-iodosuccinimide (720 mg, 3.2 mmol) was added to a solution of 5-(2-aminopyrimidin-4-yl)-2-(5-chloro-2-methylphenyl)-1-{[2-(trimethylsilyl)ethoxy]methyl}-1H-pyrrole-3-carboxamide (1.39 g, 3.0 mmol) in dry DMF (6 mL). The reaction mixture was heated at 65° C. for 7 h, allowed to cool to room temperature and then diluted with EtOAc (30 mL), washed with water (2×20 mL) brine, dried over sodium sulphate, and evaporated. The crude was purified by flash chromatography on silica gel (DCM/MeOH 97/3) to afford the title compound as yellow solid (1.07 g, 60%).

reactant | N-iodosuccinimide | 3.2 mmol, 720 mg | IN1C(CCC1=O)=O | C4H4INO2
reactant | 5-(2-aminopyrimidin-4-yl)-2-(5-chloro-2-methylphenyl)-1-{[2-(trimethylsilyl)ethoxy]methyl}-1H-pyrrole-3-carboxamide | 3.0 mmol, 1.39 g | NC1=NC=CC(=N1)C1=CC(=C(N1COCC[Si](C)(C)C)C1=C(C=CC(=C1)Cl)C)C(=O)N | C22H28ClN5O2Si
solvent | DMF | 6 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | 30 mL | CCOC(=O)C | C4H8O2
product | 5-(2-Amino-5-iodopyrimidin-4-yl)-2-(5-chloro-2-methylphenyl)-1-{[2-(trimethylsilyl)ethoxy]methyl}-1H-pyrrole-3-carboxamide | 1.07 g, 60% | NC1=NC=C(C(=N1)C1=CC(=C(N1COCC[Si](C)(C)C)C1=C(C=CC(=C1)Cl)C)C(=O)N)I | C22H27ClIN5O2Si
